### PR TITLE
[Merged by Bors] - feat(RingTheory): cocommutative bialgebra structure on SymmetricAlgebra

### PR DESCRIPTION
**Pull request by hawkrobe**
Adds the cocommutative coalgebra and bialgebra structure on `SymmetricAlgebra R M` following`MonoidAlgebra` precedent.

---

~~I originally tried to use `Bialgebra.ofAlgHom` but it doesn't make `Coalgebra.comul` defeq for `RingQuot`-built carriers (it looks like the underlying instances were `@[no_expose]` in #32861). So I used explicit `instance ... where` field assignment, then `Bialgebra` via `mk'`, instead.~~

I used Claude Code to help audit/polish this PR. (I've lurked for a long time so I did my best to closely follow conventions of other SymmetricAlgebra files but felt nervous about trying to upstream something stupid!)

### CODE REVIEW

File: Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+
+protected theorem comulAlgHom_lTensor_counit_comp :
+    (Algebra.TensorProduct.map (.id R (SymmetricAlgebra R M))
+        (algebraMapInv (R := R) (M := M))).comp (SymmetricAlgebra.comulAlgHom R M) =
+      (Algebra.TensorProduct.rid R R (SymmetricAlgebra R M)).symm.toAlgHom := by
+  ext x
+  simp only [LinearMap.coe_comp, Function.comp_apply, LinearMap.coe_coe, AlgHom.comp_apply,
+             AlgEquiv.coe_algHom, SymmetricAlgebra.comulAlgHom_ι, map_add,
+             Algebra.TensorProduct.map_tmul, AlgHom.coe_id, id_eq, algebraMapInv_ι, map_one,
+             Algebra.TensorProduct.rid_symm_apply, TensorProduct.tmul_zero, add_zero]
```
Comment (YanYablonovskiy) [inline Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean]: Maybe a style guide nit : I believe you only need to indent two more spaces when `simp` argument spans multiple lines.

```suggestion
    AlgEquiv.coe_algHom, SymmetricAlgebra.comulAlgHom_ι, map_add,
    Algebra.TensorProduct.map_tmul, AlgHom.coe_id, id_eq, algebraMapInv_ι, map_one,
    Algebra.TensorProduct.rid_symm_apply, TensorProduct.tmul_zero, add_zero]
```

File: Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+        (SymmetricAlgebra R M)).toAlgHom.comp
+      ((Algebra.TensorProduct.map (SymmetricAlgebra.comulAlgHom R M)
+          (.id R (SymmetricAlgebra R M))).comp (SymmetricAlgebra.comulAlgHom R M)) =
+    (Algebra.TensorProduct.map (.id R (SymmetricAlgebra R M))
+        (SymmetricAlgebra.comulAlgHom R M)).comp (SymmetricAlgebra.comulAlgHom R M) := by
+  ext x
+  simp only [LinearMap.coe_comp, Function.comp_apply, LinearMap.coe_coe, AlgHom.comp_apply,
+             SymmetricAlgebra.comulAlgHom_ι, map_add, Algebra.TensorProduct.map_tmul,
+             AlgHom.coe_id, id_eq, map_one, TensorProduct.add_tmul, TensorProduct.tmul_add,
+             Algebra.TensorProduct.one_def]
```
Comment (YanYablonovskiy) [inline Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean]:
```suggestion
    SymmetricAlgebra.comulAlgHom_ι, map_add, Algebra.TensorProduct.map_tmul,
    AlgHom.coe_id, id_eq, map_one, TensorProduct.add_tmul, TensorProduct.tmul_add,
    Algebra.TensorProduct.one_def]
```

File: Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+  algebraMapInv_ι R M x
+
+protected theorem comulAlgHom_comm :
+    (Algebra.TensorProduct.comm R (SymmetricAlgebra R M)
+        (SymmetricAlgebra R M)).toAlgHom.comp (SymmetricAlgebra.comulAlgHom R M) =
+      SymmetricAlgebra.comulAlgHom R M := by
+  ext x
+  simp only [LinearMap.coe_comp, Function.comp_apply, LinearMap.coe_coe, AlgHom.comp_apply,
+             AlgEquiv.coe_algHom, SymmetricAlgebra.comulAlgHom_ι, map_add,
+             Algebra.TensorProduct.comm_tmul]
```
Comment (YanYablonovskiy) [inline Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean]:
```suggestion
    AlgEquiv.coe_algHom, SymmetricAlgebra.comulAlgHom_ι, map_add,
    Algebra.TensorProduct.comm_tmul]
```

**Comment by hawkrobe** [comment]
Thank you very much! I propagated the same fix to `comulAlgHom_rTensor_counit_comp`.

**Comment by YaelDillies** [comment]
> I originally tried to use Bialgebra.ofAlgHom but it doesn't make Coalgebra.comul defeq for RingQuot-built carriers (it looks like the underlying instances were @[no_expose] in #32861).

The unexposing seems accidental. Does reverting it help?

**Comment by hawkrobe** [comment]
Thanks for the encouragement to push harder on this! I realized `Bialgebra.ofAlgHom` actually works without needing to revert anything. (When I switched to `congr(...).toLinearMap` it got around an earlier problem I was running into with a clunkier approach and I never went back to test it again, so I apologize for the misdiagnosis).

However, I'm realizing there's an architectural decision that is very much above my paygrade as a new contributor so I'd appreciate expert guidance! (I apologize in advance if this is poorly explained, I'm trying my best!) Based on the precedent of MonoidAlgebra (which has instances in Coalgebra/ -> Bialgebra/ -> HopfAlgebra/), I thought we'd want to have `Coalgebra/SymmetricAlgebra.lean`, `Bialgebra/SymmetricAlgebra.lean`, etc. 

But if you use `Bialgebra.ofAlgHom` in `Bialgebra/SymmetricAlgebra.lean` that creates what I understand to be a typeclass diamond (where the Bialgebra file would construct its own Coalgebra parent, right?) So either we need to skip the `Coalgebra/SymmetricAlgebra.lean` and let Bialgebra be the single source of truth about the Coalgebra instance (which seems bad because there's nothing under the `Coalgebra/` path where people would expect to find it, and anybody who wants a Coalgebra would have to import Bialgebra/X.lean) or we need to let the instance live in `Coalgebra/` and directly construct `Bialgebra.mk'`. The latter seemed more consistent to me, but I don't know anything! 

[NB: tried to edit for clarity based on the feedback below].

**Comment by YanYablonovskiy** [comment]
> Thanks for the encouragement to push harder on this. Bialgebra.ofAlgHom actually works without reverting anything. Sorry for the misdiagnosis (rookie mistake), I was originally playing with a `show ... = ... / convert / ext` tactic style that required unfolding CoalgebraStruct.comul but when I switched to `congr(...).toLinearMap` it sidestepped that.
> 
> However, I'm realizing this surfaces a deeper architectural tension. If you try an explicit `instance Coalgebra` AND `Bialgebra.ofAlgHom`, you get a diamond! So either we remove `Coalgebra/SymmetricAlgebra.lean` and merge everything into `Bialgebra/SymmetricAlgebra.lean` or we keep explicit `Bialgebra.mk'` to stick to MonoidAlgebra / LaurentPolynomial / TensorProduct precedent (all of which provide a real Coalgebra instance at the canonical path).
> 
> I'd prefer the latter (keeping `Bialgebra.mk'` and explicit `instance Coalgebra`) because it sets up a clean follow-up `HopfAlgebra/SymmetricAlgebra.lean` PR I'm planning mirroring the MonoidAlgebra chain (Coalgebra -> Bialgebra -> HopfAlgebra.)

I joined to give a little review to start things off, but I cannot provide a deep level of insight for this area. Which is why I tried to find someone who can, however your message reads overly LLM generated, so you may not have much traction if people believe you to be a middleman between them and an AI.

I tried to understand your instance diamond comment, but as typical for AI, it uses jargon and obfuscates (no one here actually communicates in such a way, it only makes it harder to understand one another). If you already have  a pathway via `ofAlgHom`, then why is there another instance? Typically the way to resolve diamonds requires careful tinkering, and there is a lot to say about instance management in general. But not everything has to be an instance, you can use a `def` and use the structure that way, or you can make local instances.

**Comment by hawkrobe** [comment]
I'm really sorry I came across that way! Should I take the thread to Zulip instead of trying to unpack my questions here? Which channel would be the best place to have a conversation? I was just trying to say in a clumsy way (which I've tried to edit to clarify) that my understanding of the architecture of this part of mathlib (after scrolling through a lot of old Zulip threads) is based on `MonoidAlgebra` which has a chain of instances in `Coalgebra/`, `Bialgebra/`, and `HofpAlgebra/` (with something at every path). If we want `SymmetricAlgebra` to have the same pattern, we can't use `ofAlgHom` otherwise we end up with two separate `Coalgebra` instances. 

Edit: Zulip thread [here](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Robert.20Hawkins/with/596048475):

> sorry, yes, I checked that they are definitionally equal but they unfold differently (or with different depth) -- one unfolds directly to comulAlgHom and the other has a deeper unfolds through letI, comul, etc. Is that not a problem? (maybe I am being too paranoid).

**Comment by YanYablonovskiy** [comment]
> I'm really sorry I came across that way! Should I take the thread to Zulip instead of trying to unpack my questions here? Which channel would be the best place to have a conversation? I was just trying to say in a clumsy way (which I've tried to edit to clarify) that my understanding of the architecture of this part of mathlib (after scrolling through a lot of old Zulip threads) is based on `MonoidAlgebra` which has a chain of instances in `Coalgebra/`, `Bialgebra/`, and `HofpAlgebra/` (with something at every path). If we want `SymmetricAlgebra` to have the same pattern, we can't use `ofAlgHom` otherwise we end up with two separate `Coalgebra` instances.

We need not follow that pattern if there is this level of overlap, happens relatively often depending on the math involved! If you just need the instance, and it is the one you want, in the right contexts, you don't need to make one separately if a pathway already exists. Yea sure, Zulip is usually better for it, should add on to the existing thread with this question (regardless of my answers here, as I am not one of the main algebra reviewers).

And you really wrote that yourself?? You have a very interesting style then, which does unfortunately resemble how LLMs reply around here.

File: Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+theorem algebraMapInv_ι (x : M) : algebraMapInv (R := R) (M := M) (ι R M x) = 0 := by
+  simp [algebraMapInv]
+
+/-- The comultiplication on `SymmetricAlgebra R M` as an algebra
+homomorphism, lifted from `x ↦ ι x ⊗ 1 + 1 ⊗ ι x`. -/
+protected def comulAlgHom : SymmetricAlgebra R M →ₐ[R]
+    (SymmetricAlgebra R M ⊗[R] SymmetricAlgebra R M) :=
+  lift <|
+    (TensorProduct.mk R _ _).flip (1 : SymmetricAlgebra R M) ∘ₗ ι R M +
+    TensorProduct.mk R _ _ (1 : SymmetricAlgebra R M) ∘ₗ ι R M
```
Comment (YanYablonovskiy) [inline Mathlib/RingTheory/Coalgebra/SymmetricAlgebra.lean]: We usually avoid type annotations unless necessary 
```suggestion
    (TensorProduct.mk R _ _).flip 1 ∘ₗ ι R M +
    TensorProduct.mk R _ _ 1 ∘ₗ ι R M
```

**Comment by YaelDillies** [comment]
Here are two questions for you:
1. Is the symmetric algebra a coalgebra more generally than it is a bialgebra?
2. Is the symmetric algebra a bialgebra more generally than it is a Hopf algebra?

If yes to
1. then we want a coalgebra instance for the symmetric algebra separate from the one derived from the bialgebra/Hopf algebra one;
2. then we want a bialgebra instance for the symmetric algebra separate from the one derived from the Hopf algebra one.

It is as simple as that.

**Comment by hawkrobe** [comment]
this is a tremendously helpful framework, I was thinking about it wrong; from my perspective, (1) no, (2) yes. so fold everything into a bialgebra file. (which would be separate from a future Hopf file). I'll go ahead and make that change.

**Comment by hawkrobe** [comment]
ok, I refactored along these lines! thank you again for the advice.

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean [hunk 5]
```diff
@@ -0,0 +1,118 @@
...
+# Bialgebra structure on `SymmetricAlgebra R M`
+
+`SymmetricAlgebra R M` is the cocommutative commutative `R`-bialgebra on `M`
+in which each generator `ι x` is primitive: `Δ(ι x) = ι x ⊗ 1 + 1 ⊗ ι x` and
+`ε(ι x) = 0`.
+-/
+
+public section
+
+noncomputable section
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]:
```suggestion
public noncomputable section
```

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean [hunk 6]
```diff
@@ -0,0 +1,118 @@
...
+
+namespace SymmetricAlgebra
+
+variable (R : Type*) [CommSemiring R] (M : Type*) [AddCommMonoid M] [Module R M]
+
+open scoped TensorProduct
+
+theorem algebraMapInv_ι (x : M) : algebraMapInv (R := R) (M := M) (ι R M x) = 0 := by
+  simp [algebraMapInv]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: Should this move earlier?

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean [hunk 7]
```diff
@@ -0,0 +1,118 @@
...
+
+/-- The comultiplication on `SymmetricAlgebra R M` as an algebra
+homomorphism, lifted from `x ↦ ι x ⊗ 1 + 1 ⊗ ι x`. -/
+protected def comulAlgHom : SymmetricAlgebra R M →ₐ[R]
+    (SymmetricAlgebra R M ⊗[R] SymmetricAlgebra R M) :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]:
```suggestion
    SymmetricAlgebra R M ⊗[R] SymmetricAlgebra R M :=
```
Same below

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean [hunk 8]
```diff
@@ -0,0 +1,118 @@
...
+  simp only [LinearMap.coe_comp, Function.comp_apply, LinearMap.coe_coe, AlgHom.comp_apply,
+    AlgEquiv.coe_algHom, SymmetricAlgebra.comulAlgHom_ι, map_add,
+    Algebra.TensorProduct.map_tmul, AlgHom.coe_id, id_eq, algebraMapInv_ι, map_one,
+    Algebra.TensorProduct.rid_symm_apply, TensorProduct.tmul_zero, add_zero]
+
+instance instBialgebra : Bialgebra R (SymmetricAlgebra R M) :=
+  .ofAlgHom (SymmetricAlgebra.comulAlgHom R M) (algebraMapInv (R := R) (M := M))
+    (SymmetricAlgebra.comulAlgHom_coassoc R M)
+    (SymmetricAlgebra.comulAlgHom_rTensor_counit_comp R M)
+    (SymmetricAlgebra.comulAlgHom_lTensor_counit_comp R M)
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: Can you inline all this into the instance at the bottom? Same with the `IsCocomm` instance

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean (hunk 6 above)
Comment (hawkrobe) [reply Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: I just moved it up to `Basic.lean` next to `algebraMapInv`, is that what you had in mind?

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean (hunk 8 above)
Comment (hawkrobe) [reply Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: ok I tried my best to stick to style precedent, let me know what you think! (I hit 'request re-review' but realized I don't know the norms on resolving 'awaiting-author' so apologies if that reads as aggressive).

**Comment by wwylele** [comment]
You can type `-awaiting-author` to remove the tag if you finished responding everything

**Comment by hawkrobe** [comment]
-awaiting-author

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: Where do you get stuck inlining further?

Comment (hawkrobe) [reply Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean]: ah, oops, I see, I can inline `comulAlgHom` and `comulAlgHom_ι` as well. does this look right to you?

File: Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean [hunk 9]
```diff
@@ -0,0 +1,63 @@
...
+          (SymmetricAlgebra R M)).toAlgHom.comp (Bialgebra.comulAlgHom R _) =
+        Bialgebra.comulAlgHom R (SymmetricAlgebra R M) := by
+      ext x
+      simp
+      abel
+    exact congr(($h).toLinearMap)
+
+@[simp]
+theorem counitAlgHom_eq :
+    Bialgebra.counitAlgHom R (SymmetricAlgebra R M) = algebraMapInv := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean:61]: Do you think we could get rid of `algebraMapInv` entirely by replacing it with `counitAlgHom`?

Comment (YaelDillies) [reply Mathlib/RingTheory/Bialgebra/SymmetricAlgebra.lean:61]: @erdOne says no, so nevermind

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by YanYablonovskiy — APPROVED** [review]

**Comment by hawkrobe** [comment]
thank you again for all your work on this, I learned a lot!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
